US05864039
4-Amino-N-(1-(6-aminohexyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide (1.00 g) was dissolved in dimethylformamide (15 ml). A solution of phenyl isocyanate (0.30 ml) in methylene chloride was dropwise added under ice-cooling. The mixture was stirred at room temperature for 12 hr. and the reaction mixture was concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography to give 0.30 g of 4-amino-5-chloro-2-methoxy-N-(1-(6-phenylureido)hexyl)piperidin-4-ylmethyl)benzamide.

reactant | 4-Amino-N-(1-(6-aminohexyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide | 1.00 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCCN)C=C1Cl)OC | C20H33ClN4O2
reactant | phenyl isocyanate | 0.30 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
